US07524847B2
7-(2-Butynyl)-2,6-dichloro-9-methyl-7,9-dihydropurin-8-one
7-(2-Butynyl)-2,6-dichloro-7,9-dihydropurin-8-one (435 mg) was dissolved in N,N-dimethylformamide (10 mL), and then methyl iodide (158 μL) and anhydrous potassium carbonate (468 mg) were added to the solution. This reaction solution was stirred at room temperature for 12 hours, and then water (50 mL) was added. After stirring at room temperature for one hour, a white precipitate was collected by filtration. The white solid obtained was washed with water and t-butyl methyl ether to give the title compound (355 mg).

reactant | 7-(2-Butynyl)-2,6-dichloro-7,9-dihydropurin-8-one | 435 mg | C(C#CC)N1C(NC2=NC(=NC(=C12)Cl)Cl)=O | C9H6Cl2N4O
reactant | methyl iodide | 158 μL | CI | CH3I
reactant | potassium carbonate | 468 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 7-(2-Butynyl)-2,6-dichloro-9-methyl-7,9-dihydropurin-8-one | 355 mg | C(C#CC)N1C(N(C2=NC(=NC(=C12)Cl)Cl)C)=O | C10H8Cl2N4O
